US06677368B2
To a mixture of 4-bromo-5-methoxy-3-[1-[3-methyl-4-(morpholine-4-carbonyl)-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one (223 mg, 0.5 mmol) and phenylboronic acid (73 mg, 0.6 mmol) in DME/water (5 mL) were added Palladium catalyst Pd(PPh3)2Cl2 (10.5 mg) and sodium carbonate (106 mg, 1 mmol). The system was degassed and then charged with nitrogen. The degas procedure was repeated for three times. The mixture was stirred under nitrogen at 85° C. oil bath for overnight. TLC showed some de-bromination of the starting material. The degass procedure was repeated for three more times and the heating was continued for 3 more days. The mixture was cooled to room temperature, the unreacted starting material was filtered off and the mother liquor was concentrated. The residue was purified on a silica gel column to give 21 mg of 5-methoxy-3-[1-[3-methyl-4-(morpholine-4-carbonyl)-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-4-phenyl-1,3-dihydro-indol-2-one.

reactant | 4-bromo-5-methoxy-3-[1-[3-methyl-4-(morpholine-4-carbonyl)-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one | 0.5 mmol, 223 mg | BrC1=C2/C(/C(NC2=CC=C1OC)=O)=C/C=1NC=C(C1C)C(=O)N1CCOCC1 | C20H20BrN3O4
reactant | phenylboronic acid | 0.6 mmol, 73 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 1 mmol, 106 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME water | 5 mL | COCCOC.O
catalyst | Palladium | 10.5 mg | [Pd] | Pd
product | 5-methoxy-3-[1-[3-methyl-4-(morpholine-4-carbonyl)-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-4-phenyl-1,3-dihydro-indol-2-one | 21 mg | COC=1C(=C2/C(/C(NC2=CC1)=O)=C/C=1NC=C(C1C)C(=O)N1CCOCC1)C1=CC=CC=C1 | C26H25N3O4
